US06008230
A mixture of 8-amino-6-methoxyquinoline (121 mg), 2,6-dichlorobenzoyl chloride (175 mg) and triethylamine (91.4 mg) in ethylene chloride (3 ml) was refluxed for 3 hours. After cooling, the mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane, 1:2, v/v) to give 8-(2,6-dichlorobenzoylamino)-6-methoxyquinoline (164.5 mg).

reactant | 8-amino-6-methoxyquinoline | 121 mg | NC=1C=C(C=C2C=CC=NC12)OC | C10H10N2O
reactant | 2,6-dichlorobenzoyl chloride | 175 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | triethylamine | 91.4 mg | C(C)N(CC)CC | C6H15N
solvent | ethylene chloride | 3 ml | C(CCl)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(2,6-dichlorobenzoylamino)-6-methoxyquinoline | 164.5 mg | ClC1=C(C(=O)NC=2C=C(C=C3C=CC=NC23)OC)C(=CC=C1)Cl | C17H12Cl2N2O2
